US08110581B2
(5S)-2-(cis-4-Hydroxycyclohexyl)-7-[5-(1H-pyrazol-1-yl)pyrimidin-2-yl]-2,7-diazaspiro[4.5]decan-1-one
To a solution of (5S)-7-(5-bromopyrimidin-2-yl)-2-(cis-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one (30 mg, 0.00007 mol, this compound was prepared by using procedures that were analogous to those described for the synthesis of example 420) in 1,4-dioxane (1 mL, 0.01 mol) was added 1H-pyrazole (6.0 mg, 0.0000880 mol), (1S,2S)—N,N′-dimethylcyclohexane-1,2-diamine (2.3 μL, 0.000015 mol), copper(I) iodide (1.4 mg, 0.0000073 mol), and potassium carbonate (0.0213 g, 0.000154 mol). After stirring at 150° C. for 16 h, the reaction mixture was filtered and purified by prep-HPLC to afford the desired product. LC-MS: 397.2 (M+H)+.

reactant | (5S)-7-(5-bromopyrimidin-2-yl)-2-(cis-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | BrC=1C=NC(=NC1)N1C[C@@]2(CCN(C2=O)[C@@H]2CC[C@@H](CC2)O)CCC1 | C18H25BrN4O2
reactant | 1,4-dioxane | 0.01 mol, 1 mL | O1CCOCC1 | C4H8O2
reactant | 1H-pyrazole | 0.0000880 mol, 6.0 mg | N1N=CC=C1 | C3H4N2
reactant | (1S,2S)—N,N′-dimethylcyclohexane-1,2-diamine | 0.000015 mol, 2.3 μL | CN[C@@H]1[C@H](CCCC1)NC | C8H18N2
reactant | potassium carbonate | 0.000154 mol, 0.0213 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 0.0000073 mol, 1.4 mg | [Cu]I
product | (5S)-2-(cis-4-Hydroxycyclohexyl)-7-[5-(1H-pyrazol-1-yl)pyrimidin-2-yl]-2,7-diazaspiro[4.5]decan-1-one | O[C@H]1CC[C@H](CC1)N1C([C@@]2(CC1)CN(CCC2)C2=NC=C(C=N2)N2N=CC=C2)=O | C21H28N6O2
